US04117039
A mixture of 56.2 g 4-chlorobenzaldehyde, 54.4 g phenylacetic acid, 80 ml acetic anhydride and 40 ml triethylamine was refluxed for 5 hours. Unreacted 4-chlorobenzaldehyde was removed by steam distillation and the residue dissolved in aqueous alcohol and treated with decolourising carbon. Crystals of α-phenyl-4-chlorocinnamic acid were obtained on acidification of the solution. The product was recrystallised from alcohol and found to have a melting point of 202°-4° C. The chlorosulphonyl derivative was prepared according to the method described in Example 1.

reactant | 4-chlorobenzaldehyde | 56.2 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | phenylacetic acid | 54.4 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | α-phenyl-4-chlorocinnamic acid | C1(=CC=CC=C1)C(C(=O)O)=CC1=CC=C(C=C1)Cl | C15H11ClO2
